US07553854B2
Step 5. Preparation of 4-[2-(Cyclohexylmethyl-amino)-benzothiazol-6-yloxy]-pyridine-2-carboxylic acid methylamide
To the solution of 4-(2-methanesulfinyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide (25 mg, 0.072 mmol, 1.0 eq) in DMF (500 μL), was added cyclohexylmethylamine (18.7 μL, 0.144 mmol, 2.0 eq) and reaction was stirred at 70° C. overnight. The neat reaction mixture was purified on reverse phase preparatory HPLC. Pure fractions were lyophilized as TFA salts. M+H=397.1

reactant | 4-(2-methanesulfinyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide | 0.072 mmol, 25 mg, 1.0 eq | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)S(=O)C)C=C1 | C15H13N3O3S2
reactant | cyclohexylmethylamine | 0.144 mmol, 18.7 μL, 2.0 eq | C1(CCCCC1)CN | C7H15N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | 4-[2-(Cyclohexylmethyl-amino)-benzothiazol-6-yloxy]-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)NCC2CCCCC2)C=C1 | C21H24N4O2S
